US04983623
(d) Benzyl N-tert.-butoxycarbonyl-(2S,3aS,6aS)-octahydrocyclopenta[b]pyrrole-2-carboxylate
45 g of di-tert.-butyl pyrocarbonate (Boc2O) are added to 45 g of benzyl (2S,3aS,6aS)-octahydrocyclopenta[b]pyrrole-2-carboxylate hydrochloride in 200 ml of dioxane/water (1:1) and 300 ml of 2N NaOH at 0° C. After 16 hours, the dioxane is removed in vacuo. The solution is acidified with 5N HCl and extracted with ethyl acetate. The organic phase is washed with saturated NaCl solution and dried with MgSO4. Rf (SiO2, EtOAc/cyclohexane=1:1)=0.4.

reactant | di-tert.-butyl pyrocarbonate | 45 g | C(OC(C)(C)C)(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | benzyl (2S,3aS,6aS)-octahydrocyclopenta[b]pyrrole-2-carboxylate hydrochloride | 45 g | Cl.N1[C@@H]2[C@H](C[C@H]1C(=O)OCC1=CC=CC=C1)CCC2
solvent | dioxane water | 200 ml | O1CCOCC1.O
solvent | NaOH | 2N, 300 ml | [OH-].[Na+]
product | Benzyl N-tert.-butoxycarbonyl-(2S,3aS,6aS)-octahydrocyclopenta[b]pyrrole-2-carboxylate | C(C)(C)(C)OC(=O)N1[C@@H]2[C@H](C[C@H]1C(=O)OCC1=CC=CC=C1)CCC2 | C20H27NO4
